US07588913B2
A crystallisation reactor was charged with 3.0 g cephradine and 50 ml water and heated up to T=52° C. Immediately, the combined filtrates and washings were dosed with constant dosing rate in 60 minutes. The temperature was kept at T=52° C. and the pH at 4.80 by titration with 25% sulfuric acid. Then, the temperature was decreased to 25° C. in 30 minutes. The resulting suspension was filtered through a glass filter. The wetcake was washed with 30 ml water and 2×25 ml 80% acetone (acetone/water=80/20 v/v) and dried. 47.0 g cephradine hydrate, with a water content of 3.4%, was obtained.

reactant | cephradine | 3.0 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CCC=CC3)N)SC1)C(=O)O | C16H19N3O4S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | cephradine hydrate | 47.0 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)C(C3=CCC=CC3)N)SC1)C(=O)O.O.O | InChI=1S/C16H19N3O4S.2H2O/c1-8-7-24-15-11(14(21)19(15)12(8)16(22)23)18-13(20)10(17)9-5-3-2-4-6-9;;/h2-3,6,10-11,15H,4-5,7,17H2,1H3,(H,18,20)(H,22,23);2*1H2/t10?,11-,15-;;/m1../s1
